US06288096B1
5-([4-[2-(4-(4-Methoxyphenylsulfonyloxy)phenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione
1.2 g (2.35 mmole) 5-(4-[2-(4-(4-methoxyphenylsulfonyloxy)phenyl)ethoxy]benzylidene)thiazolidine-2,4-dione was mixed with 200 ml warm ethyl acetate, 2 ml acetic acid and 1.2 g Pd/C (5%, 50% water) and hydrogenated for 4 hours at room temperature. 1.2 g more of the catalyst was added after 2 hours. The catalyst was filtered off and the solvent was evaporated in vacuo. The crude product was purified by chromatography on silica gel using dichloromethane/diisopropyl ether (gradient) as eluent to give 0.5 g of the desired product.

reactant | 5-(4-[2-(4-(4-methoxyphenylsulfonyloxy)phenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 2.35 mmole, 1.2 g | COC1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C25H21NO7S2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1.2 g | [Pd] | Pd
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 5-([4-[2-(4-(4-Methoxyphenylsulfonyloxy)phenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione | 0.5 g | COC1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C25H23NO7S2
